US08466282B2
2-(thiophen-2-yl)ethyl methanesulfonate
2-(Thiophen-2-yl)ethanol (1.05 g) was dissolved in tetrahydrofuran (25 ml), triethylamine (1.63 ml) and methanesulfonyl chloride (725 μl) were added and the mixture was stirred for 20 min. Saturated aqueous sodium hydrogen carbonate (50 ml) was added to the reaction mixture, and the mixture was extracted with diisopropyl ether. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the object product (1.62 g).

reactant | 2-(Thiophen-2-yl)ethanol | 1.05 g | S1C(=CC=C1)CCO | C6H8OS
reactant | triethylamine | 1.63 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 725 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-(thiophen-2-yl)ethyl methanesulfonate | 1.62 g | CS(=O)(=O)OCCC=1SC=CC1 | C7H10O3S2
